US08377874B2
Step 4: 1-t-Butyl 2-methyl (2S,4R)-4-[(7-methoxy-3-vinylquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate
To a solution of 1-t-butyl 2-methyl (2S,4R)-4-[(3-bromo-7-methoxyquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate (2.0 g, 4.2 mmol) in EtOH (30 mL), TEA (0.87 mL, 6.23 mmol) was added. Potassium vinyltrifluoroborate (0.84 g, 6.23 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.17 g, 0.21 mmol) were then added, and the reaction mixture was stirred at 100° C. for 2 hours. The reaction mixture was worked up with EtOAc and H2O, and the layers were separated. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified on silica (gradient elution, 0-40% EtOAc/hexanes) to yield the title compound as an oil. LRMS (M+H-tBu)+=373.3.

reactant | 1-t-butyl 2-methyl (2S,4R)-4-[(3-bromo-7-methoxyquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate | 4.2 mmol, 2.0 g | BrC=1C(=NC2=CC(=CC=C2C1)OC)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C21H25BrN2O6
reactant | Potassium vinyltrifluoroborate | 6.23 mmol, 0.84 g | C(=C)[B-](F)(F)F.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.21 mmol, 0.17 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 1-t-Butyl 2-methyl (2S,4R)-4-[(7-methoxy-3-vinylquinolin-2-yl)oxy]pyrrolidine-1,2-dicarboxylate | COC1=CC=C2C=C(C(=NC2=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)C=C | C23H28N2O6
